US04766131
To a stirred solution of 3,4-dihydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride (47.0 g, 0.229 m) and NaOH (5 g) in absolute methanol (500 ml) was added NaBH4 (34.6 g, 0.917 m) and the mixture stirred for 2 hr (TLC complete) and allowed to stand overnight. The mixture was cooled in an ice bath, treated carefully with 20% HCl until pH 1 was achieved and then heated to 50° for 1 hr. The solvent was then removed on the aspirator and the residue dissolved in 1 liter H2O. The solution was basified to pH 11 with NaOH (20%) and extracted with 3×250 ml CHCl3. The extracts were dried over MgSO4 and evaporated to give 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline as an oil, 47.6 g (100% yield).

reactant | 3,4-dihydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride | 47.0 g | Cl.COC=1C=C2CCN=C(C2=CC1OC)C
reactant | NaOH | 5 g | [OH-].[Na+]
reactant | NaBH4 | 34.6 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 500 ml | CO | CH4O
product | 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline | 100% yield | COC=1C=C2CCNC(C2=CC1OC)C | C12H17NO2
